US08207352B2
To a solution of racemic 3-[4-(4-cyanophenyl)thiazol-2-yl]-1-(1H-1,2,4-triazol-1-yl)-2-(2,5-difluorophenyl)-butan-2-ol (10 g) in acetone (ca. 200 ml) a solution of (1R)-10-camphorsulfonic acid (3.9 g) in methanol (50 ml) was added and the mixture was heated shortly under reflux until a clear solution was obtained. The solution was then slowly cooled to rt, seeded with crystals of the desired enantiomeric salt and let overnight. The solid precipitate was collected by filtration, washed with acetone and dried to provide (2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-1-(1H-1,2,4-triazol-1-yl)-2-(2,5-difluorophenyl)-butan-2-ol (1R)-10-camphorsulfonate as white solid. This salt was then taken up in methylenechloride and water and basified with aqueous sodium bicarbonate solution. The organic layer was separated and the aqueous phase washed twice with methylenechloride. The organic phases were combined, dried with sodium sulphate, filtrated and the solvent removed under reduced pressure. The crude product was then dissolved in ethanol, the slurry heated for 20 min, small amount of water was added, the solution slowly cooled to 0° C. and stirred for ca. 2 hrs. The product was collected, washed with cold ethanol and dried under reduced pressure to provide the title enantiomerically pure compound (3.9 g, 39% yield, 96% ee). The analytical date were identical with published in U.S. Pat. No. 6,300,353 B1 and WO 99/45008.

reactant | racemic 3-[4-(4-cyanophenyl)thiazol-2-yl]-1-(1H-1,2,4-triazol-1-yl)-2-(2,5-difluorophenyl)-butan-2-ol | 10 g | C(#N)C1=CC=C(C=C1)C=1N=C(SC1)C(C(CN1N=CN=C1)(O)C1=C(C=CC(=C1)F)F)C | C22H17F2N5OS
reactant | (1R)-10-camphorsulfonic acid | 3.9 g | [C@@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | acetone | ca. 200 ml | CC(=O)C | C3H6O
solvent | methanol | 50 ml | CO | CH4O
product | (2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-1-(1H-1,2,4-triazol-1-yl)-2-(2,5-difluorophenyl)-butan-2-ol (1R)-10-camphorsulfonate | 39% yield | [C@@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O[C@](CN2N=CN=C2)([C@@H](C)C=2SC=C(N2)C2=CC=C(C=C2)C#N)C2=C(C=CC(=C2)F)F | C32H31F2N5O4S2
